US07601711B2
[1-Cyclopropylmethyl-5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone
The title compound was synthesized in analogy to example 51, from (RS)-(4,4-difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone (example 42, intermediate a)), sodium hydride and cyclopropylmethyl bromide in N,N-dimethylformamide, to give the desired product as a colorless foam (53%).

reactant | (RS)-(4,4-difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone | FC1(CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CC(CC1)N(C)C)F | C21H26F2N4O2
reactant | sodium hydride | [H-].[Na+]
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [1-Cyclopropylmethyl-5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone | 53% | C1(CC1)CN1C(=CC2=CC(=CC=C12)C(=O)N1CC(CC1)N(C)C)C(=O)N1CCC(CC1)(F)F | C25H32F2N4O2
